US08304557B2
3-(1-cyano-1-methylethyl)-N-{4-methyl-3-[(2-{[4-(4-methylpiperazin-1-yl)butanoyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}benzamide
To a solution of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (153 mg, 0.359 mmol) in N,N-dimethylformamide (5 mL) was added 4-chlorobutanoyl chloride (81 μL, 0.718 mmol), and the mixture was stirred at room temperature for 1 hr. A saturated aqueous sodium hydrogen carbonate solution (15 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (15 mL, 5 mL). The combined organic layer was washed with saturated brine (5 mL) and dried over anhydrous magnesium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (3 mL). Triethylamine (149 μL, 1.08 mmol) and 1-methylpiperazine (120 μL, 1.08 mmol) were added, and the mixture was stirred at 60° C. for 14 hr. 1-Methylpiperazine (399 μL, 3.59 mmol) was added to the reaction mixture, and the mixture was further stirred at 60° C. for 5 hr. Water (15 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (15 mL, 2×5 mL). The combined organic layer was washed with saturated brine (5 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=30/70→0/100, ethyl acetate/methanol=100/0→95/5), and fractions containing the desired product were concentrated under reduced pressure. The obtained residue was purified by preparative HPLC, and fractions containing the desired product were concentrated under reduced pressure. A saturated aqueous sodium hydrogen carbonate solution (10 mL) was added to the obtained residue, and the mixture was extracted with ethyl acetate (15 mL). The organic layer was washed with saturated brine (5 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. Ethyl acetate and hexane were added to the obtained residue. The obtained precipitate was collected by filtration, and dried to give the title compound (12 mg, 6%) as a colorless powder.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.359 mmol, 153 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C24H22N6O2
reactant | 4-chlorobutanoyl chloride | 0.718 mmol, 81 μL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium hydrogen carbonate | 15 mL | C(O)([O-])=O.[Na+]
reactant | Triethylamine | 1.08 mmol, 149 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 1.08 mmol, 120 μL | CN1CCNCC1 | C5H12N2
reactant | 1-Methylpiperazine | 3.59 mmol, 399 μL | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | 15 mL | O | H2O
product | 3-(1-cyano-1-methylethyl)-N-{4-methyl-3-[(2-{[4-(4-methylpiperazin-1-yl)butanoyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}benzamide | 12 mg, 6% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(C2)N=C(N3)NC(CCCN3CCN(CC3)C)=O)C=CC1 | C33H38N8O3
